US04139617
One equivalent of Jones Reagent is added to a solution of 3β-ethoxy-5-androstene-17β,19-diol 17-acetate in acetone at 10° C. After stirring for 30 minutes the acetone layer is poured onto cold water with vigorous stirring. The precipitate which forms is filtered, washed with water and dir dried. Crystallization of this precipitate from an ether-hexane mixture yields 3β-ethoxy-17β-hydroxy-5-androsten-19-one acetate.

reactant | Jones Reagent | One equivalent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 3β-ethoxy-5-androstene-17β,19-diol 17-acetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(CO)[C@H]1CC2)OCC | C23H36O4
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 3β-ethoxy-17β-hydroxy-5-androsten-19-one acetate | C(C)(=O)O.C(C)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C=O)O | InChI=1S/C21H32O3.C2H4O2/c1-3-24-15-8-11-21(13-22)14(12-15)4-5-16-17-6-7-19(23)20(17,2)10-9-18(16)21;1-2(3)4/h4,13,15-19,23H,3,5-12H2,1-2H3;1H3,(H,3,4)/t15-,16-,17-,18-,19-,20-,21+;/m0./s1
